US07897600B2
2-chloro-1-(4-chloro-2-fluorophenyl)ethanone
Stir a mixture of heptanes (1.5 L), methanol (0.4 L), and 1-(4-chloro-2-fluorophenyl)ethanone (1 kg, 5.81 mol) with cooling to <5° C. Add sulfuryl chloride (0.608 L, 1.02 kg, 7.55 mol) as a heptanes (1.5 L) solution drop-wise to the mixture keeping the reaction temperature <15° C. during the addition. After 2 h quench the reaction at ambient temperature to a pH of 6 with sodium hydroxide (5N, 2.0 L). Extract the reaction mixture with methylene chloride (2 L) and concentrate the extract to form a white solid. Filter and dry the solid.

reactant | 1-(4-chloro-2-fluorophenyl)ethanone | 5.81 mol, 1 kg | ClC1=CC(=C(C=C1)C(C)=O)F | C8H6ClFO
reactant | sulfuryl chloride | 7.55 mol, 0.608 L, 1.02 kg | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methanol | 0.4 L | CO | CH4O
product | 2-chloro-1-(4-chloro-2-fluorophenyl)ethanone | ClCC(=O)C1=C(C=C(C=C1)Cl)F | C8H5Cl2FO
